US09233956B2
Step C: Methyl 2-chloro-3-(2,6-difluorophenylsulfonamido)benzoate
Following a procedure analogous to Intermediate 5, Step A using methyl 3-amino-2-chlorobenzoate (39 g, 211 mmol) in DCM (200 mL) was added pyridine (51 g, 633 mmol) and 2,6-difluorobenzene-1-sulfonyl chloride (49.1 g, 232 mmol) the title compound was obtained (62 g, 81.6% yield). 1H NMR (400 MHz, CDCl3) δ ppm 7.87 (dd, J=1.8 Hz, 8.38 Hz, 1H), 7.72-7.79 (br, 1H), 7.56 (dd, J=1.8 Hz, 7.94 Hz, 1H), 7.45-7.53 (m, 1H), 7.28 (dd, J=7.9 Hz, 8.4 Hz, 1H), 6.95-7.01 (m, 2H), 3.89 (s, 3H).

reactant | methyl 3-amino-2-chlorobenzoate | 211 mmol, 39 g | NC=1C(=C(C(=O)OC)C=CC1)Cl | C8H8ClNO2
reactant | pyridine | 633 mmol, 51 g | N1=CC=CC=C1 | C5H5N
reactant | 2,6-difluorobenzene-1-sulfonyl chloride | 232 mmol, 49.1 g | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-chloro-3-(2,6-difluorophenylsulfonamido)benzoate | 81.6% yield | ClC1=C(C(=O)OC)C=CC=C1NS(=O)(=O)C1=C(C=CC=C1F)F | C14H10ClF2NO4S
